US05089506
Tricyclo[6.2.2.0]dodeca-4,9-diene-3,6-diol
Tricyclo[6.2.2.0]dodeca-4,9-diene-3,6-dione (2.55 g) was combined with toluene (500 ml) and 1M diisobutylaluminum hydride in tetrahydrofuran (30 ml) and the mixture was stirred at room temperature for 3 hours. The solution was cooled in an ice bath and 30% potassium hydroxide solution was added. The resulting mixture was stirred for 30 minutes and the layers separated. The aqueous layer was extracted with ether (2×100 ml) and the combined organic layers were concentrated on a rotary evaporator. The residue was recrystallized from hexane/ethyl acetate to provide the product as a white solid.

reactant | dodeca-4,9-diene-3,6-dione | 2.55 g | CCC(C=CC(CCC=CCC)=O)=O | C12H18O2
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | dodeca-4,9-diene-3,6-diol | CCC(C=CC(CCC=CCC)O)O | C12H22O2
